US07727988B2
5-[2-(methyloxy)-3-pyridinyl]-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione (E37)
5-Iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione (Prep40, 150 mg, 0.3 mmol) was dissolved in degassed MeOH (4 mL). 2-Methoxy-pyridine-3-boronic acid (136 mg, 0.9 mmol), KF (155 mg, 2.7 mmol), and Pd(OAc)2 (15 mg, 10% weight) were added and the mixture was heated to vigorous reflux for 2.5 hours. The mixture was diluted with MeOH, loaded on SCX cartridge washing with MeOH and MeOH/NH3 95:5. The solvent was evaporated under vacuum and the residue was purified by flash chromatography with ethyl acetate to give the title compound as free base (70 mg, 48% yield).

reactant | 5-Iodo-1-{3-[(1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hex-3-yl]-propyl}-1H-pyrimidine-2,4-dione | 0.3 mmol, 150 mg | IC=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C19H19F3IN3O2
reactant | 2-Methoxy-pyridine-3-boronic acid | 0.9 mmol, 136 mg | COC1=NC=CC=C1B(O)O | C6H8BNO3
reactant | KF | 2.7 mmol, 155 mg | [F-].[K+]
solvent | MeOH | 4 mL | CO | CH4O
catalyst | Pd(OAc)2 | 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-[2-(methyloxy)-3-pyridinyl]-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | COC1=NC=CC=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H25F3N4O3
